US08058299B2
2-(4-{5-[(2-Phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-cyclopentanecarboxylic acid methyl ester was prepared through a standard Suzuki coupling procedure by mixing 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-bromo-pyridin-3-yl)-amide (prepared using a similar coupling procedure as described above from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 6-bromo-pyridin-3-ylamine.), 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-cyclopentanecarboxylic acid methyl ester, palladium tetrakis(triphenylphosphine) and aqueous sodium bicarbonate solution in toluene and ethanol, and heating this mixture to 160° C. under microwave condition for 20 min. Aqueous workup followed by silica gel chromatography separation gave 2-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-cyclopentanecarboxylic acid methyl ester as light yellow solid. LCMS calcd for C30 H24 F3 N3 O5 (m/e) 563, obsd 564 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-bromo-pyridin-3-yl)-amide | BrC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C16H9BrF3N3O2
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 6-bromo-pyridin-3-ylamine | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-cyclopentanecarboxylic acid methyl ester | COC(=O)C1C(CCC1)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C20H27BO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium tetrakis(triphenylphosphine) | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-cyclopentanecarboxylic acid methyl ester | COC(=O)C1C(CCC1)C(C1=CC=C(C=C1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C30H24F3N3O5
